US08372842B2
Sodium hydride (0.0881 g, 2.20 mmol) in DMF (5 mL) was added dropwise to 5-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (0.70 g, 1.84 mmol) in DMF (5 mL). Then the reaction mixture was warmed to 40° C. and stirred for 30 minutes. After cooling to room temperature, 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (0.787 g, 2.20 mmol) was added and stirred at room temperature for 1 hour. tert-Butyl piperazine-1-carboxylate (0.787 g, 4.22 mmol) was then added, and the mixture was stirred at 80° C. for 1 hour. Saturated NH4Cl (20 mL) was added, and the reaction was extracted with ethyl acetate and dried over sodium sulfate. After removal of the solvent, the resulting residue was purified by column chromatography (hexane:ethyl acetate, 5:1) to give tert-butyl 4-(5-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.94 g, 93%) as a solid. MS ESI (+) m/z 550.3 detected. 1H NMR (400 Hz, DMSO-d6) δ 8.64 (s, 1H), 8.31 (s, 1H), 7.20 (d, J=7.6 Hz, 2H), 6.82 (d, J=7.6 Hz, 2H), 5.52 (s, 2H), 3.69 (s, 3H), 3.56 (m, 4H), 3.46 (m, 4H), 1.44 (s, 9H).

reactant | Sodium hydride | 2.20 mmol, 0.0881 g | [H-].[Na+]
reactant | 5-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 1.84 mmol, 0.70 g | IC1=C(C2=C(N=C1)N(N=C2)CC2=CC=C(C=C2)OC)O | C14H12IN3O2
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 2.20 mmol, 0.787 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | tert-Butyl piperazine-1-carboxylate | 4.22 mmol, 0.787 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(5-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.94 g, 93% | IC=1C(=C2C(=NC1)N(N=C2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C23H28IN5O3
